US07179812B2
5-Bromo-2-chloro-pyrimidine (0.500 g, 2.53 mmol), 1-but-3-ynyl-1H-[1,2,3]triazole (0.368 g, 3.03 mmol) and triethyl amine (NEt3) (5.0 ml) are dissolved in DMF (10 ml) and copper iodide (CuI) (0.052 g, 0.27 mmol) is added under stirring. After passing a stream of argon through the mixture for 10 min tetrakis(triphenylphosphine)palladium(0) (0.149 g, 0.13 mmol) is added and stirring is continued for 4 h at 80° C. Dichloromethane (125 ml) is added, the mixture is washed with 0.5N hydrochloric acid (HCl) and brine, dried over Na2SO4 and concentrated in vacuo. The crude product is purified by flash column chromatography (ethyl acetate/hexanes 4:1) yielding 2-chloro-5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrimidine as a colorless solid. Yield 373 mg (63%).

reactant | 5-Bromo-2-chloro-pyrimidine | 2.53 mmol, 0.500 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 1-but-3-ynyl-1H-[1,2,3]triazole | 3.03 mmol, 0.368 g | C(CC#C)N1N=NC=C1 | C6H7N3
reactant | triethyl amine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | Dichloromethane | 125 ml | ClCCl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.27 mmol, 0.052 g | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.13 mmol, 0.149 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrimidine | ClC1=NC=C(C=N1)C#CCCN1N=NC=C1 | C10H8ClN5
